US04626543
4-(1,1-Dimethylethyl)-1,3-thiazole-2-acetonitrile
To a solution of 16.5 g of 85% KOH in 250 ml ethanol was added 25.0 g of 2-cyanothioacetamide. After all of this reagent had dissolved, 44.8 g of bromopinacolone was added dropwise over ca 5 min. The reaction temperature spontaneously climbed to 65° C. and a white solid began to deposit. The mixture was stirred and heated at reflux for 1 hour, cooled, poured into 1000 ml water, and extracted with ether. The extract was washed with brine, dried (MgSO4), and concentrated. Kugelrohr distillation of the residual oil gave 23.3 g of the desired product as a light yellow oil b.p. 90°-95° C. (1 mm Hg).

reactant | KOH | 16.5 g | [OH-].[K+]
reactant | 2-cyanothioacetamide | 25.0 g | C(#N)CC(=S)N | C3H4N2S
reactant | bromopinacolone | 44.8 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | water | 1000 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-(1,1-Dimethylethyl)-1,3-thiazole-2-acetonitrile | 23.3 g | CC(C)(C)C=1N=C(SC1)CC#N | C9H12N2S
